US09238640B2
To a solution of 2-amino-3-chloro-benzoic acid (2.57 g, 15.0 mmol) in THF (100 mL) were added EDCl (3.16 g, 16.5 mmol), HOBt (2.23 g, 16.5 mmol) and N-methylmorpholine (1.67 g, 16.5 mmol). The reaction mixture was stirred at room temperature for 20 minutes then 50% (v/v) aq. NH4OH solution (4.2 mL, 60.0 mmol) was added. The mixture was stirred for 20 hours at room temperature. Solvent was evaporated and the residue was taken in ethyl acetate (200 mL). Water (100 mL) was added. The organic phase was separated; the aqueous phase was extracted with ethyl acetate (200 mL). The combined organic phase was washed with water (100 mL), then brine (100 mL), and dried over anhydrous sodium sulfate. Solvent was evaporated and dried under vacuum to give 2-amino-3-chloro-benzamide as a white solid. Yield: 2.07 g (81%).

reactant | 2-amino-3-chloro-benzoic acid | 15.0 mmol, 2.57 g | NC1=C(C(=O)O)C=CC=C1Cl | C7H6ClNO2
reactant | EDCl | 16.5 mmol, 3.16 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 16.5 mmol, 2.23 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 16.5 mmol, 1.67 g | CN1CCOCC1 | C5H11NO
reactant | NH4OH | 60.0 mmol, 4.2 mL | [NH4+].[OH-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-amino-3-chloro-benzamide | NC1=C(C(=O)N)C=CC=C1Cl | C7H7ClN2O
